US07671033B2
Preparation of 4-Butoxybenzyl Chloride
Was synthesized following the same general procedure as that for the preparation of 4-ethoxybenzyl chloride; thionyl chloride (7.42 g, 69.2 mmol), 4-butoxybenzyl alcohol (9.45 g, 52.4 mmol), CH2Cl2 (145 mL).

reactant | 4-ethoxybenzyl chloride | C(C)OC1=CC=C(CCl)C=C1 | C9H11ClO
reactant | thionyl chloride | 69.2 mmol, 7.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-butoxybenzyl alcohol | 52.4 mmol, 9.45 g | C(CCC)OC1=CC=C(CO)C=C1 | C11H16O2
solvent | CH2Cl2 | 145 mL | C(Cl)Cl | CH2Cl2
product | 4-Butoxybenzyl Chloride | C(CCC)OC1=CC=C(CCl)C=C1 | C11H15ClO
